US08664220B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[5-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazol-2-yl]-methanol
Prepared according to the procedure described in Example 30, Step 1, using 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 2-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazole.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazole | FC(C=1C=C(CC=2OC=NN2)C=CC1)(F)F | C10H7F3N2O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[5-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazol-2-yl]-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1OC(=NN1)CC1=CC(=CC=C1)C(F)(F)F | C21H15BrF3N3O3
